US08309721B2
0.74 g of 4-bromo-2-fluorobenzonitrile, 3.07 g of caesium carbonate, 0.172 g of (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphane) and 0.055 g of palladium acetate are successively added, under argon, to a solution of 0.68 g of 4-(5-methoxypyridin-3-yl)-9H-carbazole in 30 ml of dioxane. The reaction mixture is refluxed for 2 and a half hours, cooled to ambient temperature, filtered through celite and concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of cyclohexane and ethyl acetate (80/20 by volume), so as to give 0.78 g of 2-fluoro-4-[4-(5-methoxypyridin-3-yl)-9H-carbazol-9-yl]benzonitrile in the form of a colourless oil, the characteristics of which are the following:

reactant | 4-bromo-2-fluorobenzonitrile | 0.74 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | caesium carbonate | 3.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphane) | 0.172 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 4-(5-methoxypyridin-3-yl)-9H-carbazole | 0.68 g | COC=1C=C(C=NC1)C1=CC=CC=2NC3=CC=CC=C3C12 | C18H14N2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.055 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-fluoro-4-[4-(5-methoxypyridin-3-yl)-9H-carbazol-9-yl]benzonitrile | 0.78 g | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC=C(C1)OC | C25H16FN3O
